US06969712B2
1) 4-Chloro-3-fluoroaniline
To a solution of 96 ml of 3-fluoroaniline in 1000 ml of dichloromethane, 147 g of N-chlorosuccinimide was added at 0° C. and stirred for 12 hours at room temperature. Water was added to the reaction solution which then was extracted with chloroform. The extract was washed with saturated brine, dried on anhydrous sodium sulfate and distilled. The residue was separated and purified on silica gel column chromatography (hexane/ethyl acetate=5/1) to provide 21 g of the title compound as a yellow solid.

reactant | 3-fluoroaniline | 96 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | N-chlorosuccinimide | 147 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 4-Chloro-3-fluoroaniline | 21 g | ClC1=C(C=C(N)C=C1)F | C6H5ClFN
